US07064201B2
Sulfuryl chloride (0.84 ml, 10.4 mmol) was added to a cooled (0°) solution of 4,4-dimethyl-3-oxo-hex-5-enoic acid ethyl ester (1.83 g, 9.93 mmol) in chloroform (7 ml). The resulting mixture was allowed to warm to room temperature and stir for 30 min, after which it was heated under reflux for 2 h. After cooling to room temperature the reaction mixture was diluted with chloroform, then was washed with sodium bicarbonate, water then brine. The organic phase was dried and evaporated to afford, as a brown oil, 2-chloro-4,4-dimethyl-3-oxo-hex-5-enoic acid ethyl ester (2.01 g, 93%). (Hayashi et al., J. Org. Chem., 65:8402–8405 (2000).

reactant | Sulfuryl chloride | 10.4 mmol, 0.84 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4,4-dimethyl-3-oxo-hex-5-enoic acid ethyl ester | 9.93 mmol, 1.83 g | C(C)OC(CC(C(C=C)(C)C)=O)=O | C10H16O3
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-4,4-dimethyl-3-oxo-hex-5-enoic acid ethyl ester | 2.01 g, 93% | C(C)OC(C(C(C(C=C)(C)C)=O)Cl)=O | C10H15ClO3
